US05902803
8-Phthalimidomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one can be obtained in the following way: a mixture of 17 g of ethyl 1-(5-phthalimidomethyl-1oxoindan-2yl)imidazole-2-carboxylate and 153 g of ammonium acetate in 355 ml of glacial acetic acid is heated at reflux for 16 hours. The reaction mixture is cooled to a temperature in the region of 20° C. The precipitate is filtered on sintered glass, rinsed with distilled water to neutral pH and then washed with acetone. After drying under vacuum (1 mbar) at 80° C., 10 g of 8-phthalimidomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of a brown solid (1H NMR spectrum in d6-DMSO, T=300K, δ in ppm: 4.00 (2H, s, CH2), 4.83 (2H, s, NCH2), 7.47 (1H, d, J=7 Hz, arom. CH), 7.55 (2H, d, J=7 Hz, arom. CH), 7.80 (1H, d, J=7 Hz, arom. CH), between 7.85 and 8.00 (4H, m, phthal. H), 12.30 (1H, broad s, NH)).

reactant | ethyl 1-(5-phthalimidomethyl-1oxoindan-2yl)imidazole-2-carboxylate | 17 g | C1(C=2C(C(N1CC=1C=C3CC(C(C3=CC1)=O)N1C(=NC=C1)C(=O)OCC)=O)=CC=CC2)=O | C24H19N3O5
reactant | ammonium acetate | 153 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 355 ml | C(C)(=O)O | C2H4O2
product | 8-phthalimidomethyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 10 g | C1(C=2C(C(N1CC1=CC=3CC4=C(NC(C=5N4C=CN5)=O)C3C=C1)=O)=CC=CC2)=O | C22H14N4O3
